* C:\Users\PawaN\eSim-Workspace\two_step_adc\two_step_adc.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 10/8/2022 1:20:49 PM

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
SC1  Vin Net-_SC1-Pad2_ Net-_SC1-Pad3_ Net-_SC1-Pad4_ sky130_fd_pr__nfet_01v8_lvt		
v2  Net-_X3-Pad2_ GND DC		
v1  Net-_SC1-Pad2_ GND pulse		
v4  Net-_X1-Pad3_ GND DC		
v3  Net-_X1-Pad2_ GND DC		
v5  Net-_X1-Pad1_ GND DC		
v7  Net-_X5-Pad2_ GND DC		
scmode1  SKY130mode		
X3  Net-_SC1-Pad3_ Net-_X3-Pad2_ b3 b2 flash_2		
X5  Net-_SC4-Pad2_ Net-_X5-Pad2_ b1 b0 flash_2		
X2  Net-_X2-Pad1_ Net-_X2-Pad2_ Net-_SC2-Pad2_ Net-_SC3-Pad1_ Net-_SC4-Pad2_ GND avsd_opamp		
SC2  Net-_SC1-Pad3_ Net-_SC2-Pad2_ Net-_SC1-Pad3_ sky130_fd_pr__res_generic_pd		
SC3  Net-_SC3-Pad1_ Net-_SC3-Pad2_ Net-_SC3-Pad2_ sky130_fd_pr__res_generic_pd		
SC4  Net-_SC2-Pad2_ Net-_SC4-Pad2_ Net-_SC2-Pad2_ sky130_fd_pr__res_generic_pd		
v6  GND Net-_X2-Pad2_ DC		
v8  Net-_X2-Pad1_ GND DC		
U1  Vin plot_v1		
U2  b3 plot_v1		
v9  Vin GND sine		
X1  Net-_X1-Pad1_ Net-_X1-Pad2_ Net-_X1-Pad3_ b3 b2 GND GND GND GND GND GND GND GND Net-_SC3-Pad2_ GND avsddac_3v3_sky130_v2		
v10  Net-_SC1-Pad4_ GND DC		
SC5  Net-_SC1-Pad3_ GND sky130_fd_pr__cap_mim_m3_2		
U3  b2 plot_v1		
U5  b0 plot_v1		
U4  b1 plot_v1		

.end
